US07244730B2
(Step 1) 1-(tert-Butyl)-1,1-diphenylsilyl [(6-cyclopropyl-3-pyridyl)methyl]ether
NiCl2(dppf)2 (0.45 g, 0.66 mmol) was added to a solution of 1-(tert-butyl)-1,1-diphenylsilyl [(6-chloro-3-pyridyl)methyl]ether (5.0 g, 13 mmol) in tetrahydrofuran (26 ml) at room temperature, after which 1.0 M cyclopropylmagnesium bromide (16 ml) was slowly added dropwise and stirring was continued at room temperature for 5.5 hours. Next, 1.0 M cyclopropylmagnesium bromide (10 ml) was slowly added dropwise over a period of 1.5 hours and stirring was continued for 15 hours. Saturated aqueous NH4Cl was added, and then the mixture was stirred for 3 hours and filtered through celite and extraction was performed with ethyl acetate. After drying with anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure and the residue was purified by silica gel column chromatography (solvent: n-hexane-ethyl acetate) to yield the title compound (1.3 g) as a mixture with impurities. This product was used without further purification for the following reaction.

reactant | 1-(tert-butyl)-1,1-diphenylsilyl [(6-chloro-3-pyridyl)methyl]ether | 13 mmol, 5.0 g | C(C)(C)(C)C1(CC=CC=C1)[SiH2]C([SiH2]C1=CC=CC=C1)(C=1C=NC(=CC1)Cl)OC([SiH2]C1(CC=CC=C1)C(C)(C)C)([SiH2]C1=CC=CC=C1)C=1C=NC(=CC1)Cl | C44H54Cl2N2OSi4
reactant | cyclopropylmagnesium bromide | 1.0 M, 16 ml | C1(CC1)[Mg]Br
reactant | cyclopropylmagnesium bromide | 1.0 M, 10 ml | C1(CC1)[Mg]Br
reactant | NH4Cl | [NH4+].[Cl-]
reactant | tetrahydrofuran | 26 ml | O1CCCC1 | C4H8O
product | 1-(tert-Butyl)-1,1-diphenylsilyl [(6-cyclopropyl-3-pyridyl)methyl]ether | 1.3 g | C(C)(C)(C)C1(CC=CC=C1)[SiH2]C([SiH2]C1=CC=CC=C1)(C=1C=NC(=CC1)C1CC1)OC([SiH2]C1(CC=CC=C1)C(C)(C)C)([SiH2]C1=CC=CC=C1)C=1C=NC(=CC1)C1CC1 | C50H64N2OSi4
